US06544985B2
(RS)-[5-Azetidin-1-yl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-azetidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J17) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester (Example K5) according to the general procedure M. Obtained as a yellow foam (450 mg).

reactant | (2-amino-5-azetidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)C(F)(F)F)N)=O | C15H20F3N3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[5-Azetidin-1-yl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C32H37F3N6O6
